US04589910
5 parts of gaseous dimethylamine were passed into a solution of 26.8 parts of 5-(4'-isocyanatophenoxy)-benzisothiazole in 300 parts of diethyl ether, the reaction mixture was stirred for 12 hours at from 20 to 30° C., and the resulting precipitate was isolated. 27.6 parts (88% of theory) of 5-(4'-dimethylaminocarbonylaminophenoxy)-benzisothiazole of melting point 156° C. were obtained.

reactant | dimethylamine | CNC | C2H7N
reactant | 5-(4'-isocyanatophenoxy)-benzisothiazole | N(=C=O)C1=CC=C(OC=2C=CC3=C(C=NS3)C2)C=C1 | C14H8N2O2S
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-(4'-dimethylaminocarbonylaminophenoxy)-benzisothiazole | 88% | CN(C(=O)NC1=CC=C(OC=2C=CC3=C(C=NS3)C2)C=C1)C | C16H15N3O2S
